US07141690B2
Synthesis of (2-allyloxy-3-tert-butyl-5-methylphenyl)(cyclopenta[1,2-b:4,3-b′]dithiophen-7-yl)diethylsilane
To a solution of cyclopenta[1,2-b:4,3-b′]dithiophene (0.50 g, 280 mmol) in tetrahydrofuran (25 mL) was added dropwise n-butyllithium (1.56 M, 1.88 mL, 2.94 mmol) at −78° C. and stirred at room temperature for 4 hours. The mixture was cooled to −78° C. and a solution of (2-allyloxy-3-tert-buyl-5-methylphenyl)chlorodimethylsilane (0.83 g, 2.80 mmol) in toluene (5 mL) was added dropwise thereto. The resulting reaction mixture was warmed to room temperature and stirred for 2 hours. After the solvent was distilled off under reduced pressure, toluene was added and the mixture was filtered to remove insoluble substances. The filtrate was concentrated under reduced pressure to quantitatively obtain (2-allyloxy-3-tert-butyl-5-methylphenyl)(cyclopenta[1,2-b:4,3-b′]dithiophen-7-yl)diethylsilane.

reactant | cyclopenta[1,2-b:4,3-b′]dithiophene | 280 mmol, 0.50 g | S1C=2C(=CC1)C1=C(SC=C1)C2 | C9H6S2
reactant | n-butyllithium | 2.94 mmol, 1.56 M, 1.88 mL | C(CCC)[Li]
reactant | (2-allyloxy-3-tert-buyl-5-methylphenyl)chlorodimethylsilane | 2.80 mmol, 0.83 g | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](C)(C)Cl | C16H25ClOSi
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (2-allyloxy-3-tert-butyl-5-methylphenyl)(cyclopenta[1,2-b:4,3-b′]dithiophen-7-yl)diethylsilane | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](CC)(CC)C=1C=2SC=CC2C=2C1SCC2 | C27H34OS2Si
